US07495103B2
To a solution of 2-tert-butyl-6-nitro-2,3-dihydro-1H-indole (2.0 g, 9.1 mmol) in 1,4-dioxane (20 mL) was added DDQ at room temperature. After refluxing for 2.5 h, the mixture was filtered and the filtrate was concentrated under vacuum. The residue was purified by column chromatography to give 2-tert-butyl-6-nitro-1H-indole (1.6 g, 80%).

reactant | 2-tert-butyl-6-nitro-2,3-dihydro-1H-indole | 9.1 mmol, 2.0 g | C(C)(C)(C)C1NC2=CC(=CC=C2C1)[N+](=O)[O-] | C12H16N2O2
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-tert-butyl-6-nitro-1H-indole | 1.6 g, 80% | C(C)(C)(C)C=1NC2=CC(=CC=C2C1)[N+](=O)[O-] | C12H14N2O2
